US05128448
To a stirring mixture of propiolic acid (1.79 mL (2.04 g), 28.65 mmol) and potassium carbonate (4.87 g, 35.2 mmol) in anhydrous DMF (40 mL) was added benzyl bromide (3.78 mL (5.43 g of 99% pure), 31.4 mmol). The reaction mixture was stirred at room temperature for 16 h. The resulting heterogeneous mixture was poured into 40 mL of H2O and was extracted with ethyl ether (3×40 mL). The combined ether extracts were dried (Na2SO4). Filtration and concentration provided 12.16 g of crude product, which upon high vacuum distillation yielded 2-propynoic acid phenylmethyl ester (bp 60° C. 0.5 mm) as a clear oil (3.57 g, 22.3 mmol) in 78% yield.

reactant | propiolic acid | 28.65 mmol, 1.79 mL, 2.04 g | C(C#C)(=O)O | C3H2O2
reactant | potassium carbonate | 35.2 mmol, 4.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 31.4 mmol, 3.78 mL, 5.43 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | 40 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-propynoic acid phenylmethyl ester | 22.3 mmol, 3.57 g, 78% yield | C1(=CC=CC=C1)COC(C#C)=O | C10H8O2
